US05616537
Preparation of Allyl 5-[(4,6-Dimethoxypyrimidin-2-yl)oxy]-2-methyl-3-nitroindol-4-carboxylate (Compound No. 759)
2.0 g of allyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate was dissolved in 25 ml of acetonitrile, and the solution was cooled to -30° C. 16.3 ml of a 0.5M sulfolane solution of nitronium tetrafluoroborate was dropwise added thereto, and the mixture was stirred for 5 hours. After adding 2 ml of aqueous ammonia, the mixture was returned to room temperature and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous sodium sulfate. Crystals obtained by concentration under reduced pressure, were washed with hexane to obtain 1.23 g (yield: 55%) of the desired compound.

reactant | allyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate | 2.0 g | COC1=NC(=NC(=C1)OC)OC1=C(C=2C=C(NC2C=C1)C)C(=O)OCC=C | C19H19N3O5
reactant | sulfolane | 0.5M | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
reactant | ammonia | 2 ml | N | H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | Allyl 5-[(4,6-Dimethoxypyrimidin-2-yl)oxy]-2-methyl-3-nitroindol-4-carboxylate | 1.23 g, yield: 55% | COC1=NC(=NC(=C1)OC)OC1=C(C=2C(=C(NC2C=C1)C)[N+](=O)[O-])C(=O)OCC=C | C19H18N4O7
